US04851519
A mixture of 6 g of 2'-deoxy-5-ethyl-5'-O-trityluridine, 1.347 g of powdered potassium hydroxide and 1.95 ml of ethyl iodide in a mixture of 60 ml of benzene and 20 ml of dioxane was stirred and heated under reflux for 14 hours. The solvents were removed by evaporation, the residue was taken up in 6 ml of methanol and the solution was poured into 250 ml of water. The resulting mixture was extracted four times with 150 ml of chloroform each time and the combined chloroform extracts were evaporated to give 2'-deoxy-3'-O-ethyl-5-ethyl-5'-O-trityluridine which was used directly in the next step.

reactant | 2'-deoxy-5-ethyl-5'-O-trityluridine | 6 g | C(C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)O2)C1)=O)=O | C30H30N2O5
reactant | potassium hydroxide | 1.347 g | [OH-].[K+]
reactant | ethyl iodide | 1.95 ml | C(C)I | C2H5I
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 2'-deoxy-3'-O-ethyl-5-ethyl-5'-O-trityluridine | C(C)O[C@H]1C[C@@H](O[C@@H]1COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N1C(=O)NC(=O)C(=C1)CC | C32H34N2O5
